US06111125
A. Preparation of (1R)-3,3,5-trimethyl-4-methylenecyclohexan-1-ol
0.79 g (6.86 mmol) of potassium tert-butoxide (KOtBu) was added to a solution of 2.5 g (6.86 mmol) of methyltriphenylphosphonium bromide in 10 ml of dimethyl sulfoxide (DMSO) under N2, and the mixture was then stirred at RT for 30 min. 0.36 g (2.29 mmol) of (4R,6R)-4-hydroxy-2,2,6-trimethyl-1-cyclohexanone was added to this mixture, which was then stirred at RT for 5 min. during which a white precipitate appeared. The mixture was then stirred at 60° C. for 15 min, cooled to RT, poured into 150 ml of ice-water and extracted twice with 50 ml of methylene chloride. The organic phase was separated off, washed with 50 ml of a 5% strength aqueous Na2CO3 solution and 50 ml of water and dried over MgSO4, and the solvent was removed under reduced pressure.

reactant | potassium tert-butoxide | 6.86 mmol, 0.79 g | CC(C)([O-])C.[K+]
reactant | (4R,6R)-4-hydroxy-2,2,6-trimethyl-1-cyclohexanone | 2.29 mmol, 0.36 g | O[C@H]1CC(C([C@@H](C1)C)=O)(C)C | C9H16O2
catalyst | methyltriphenylphosphonium bromide | 6.86 mmol, 2.5 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | (1R)-3,3,5-trimethyl-4-methylenecyclohexan-1-ol | CC1(C[C@@H](CC(C1=C)C)O)C | C10H18O
